US08349031B2
3 g of iminodiacetic acid, 27 g of water, and 1.85 g of lithium hydroxide monohydrate were placed in a 500 mL capacity three-necked flask equipped with a refluxing condenser, and stirred. Then, water was evaporated using an evaporator to provide lithium iminodiacetate as solid.

reactant | iminodiacetic acid | 3 g | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | lithium hydroxide monohydrate | 1.85 g | O.[OH-].[Li+]
solvent | water | 27 g | O | H2O
product | lithium iminodiacetate | N(CC(=O)[O-])CC(=O)[O-].[Li+].[Li+] | InChI=1S/C4H7NO4.2Li/c6-3(7)1-5-2-4(8)9;;/h5H,1-2H2,(H,6,7)(H,8,9);;/q;2*+1/p-2
